US09056859B2
A mixture of 5-bromo-3,4-dihydro-1H-isochromene-1-carboxylic acid (9.10 g, 35.4 mmol) and CDI (4.14 g, 42.5 mmol) in 200 mL of dry DCM was stirred at r.t. for 30 min and then O,N-dimethyl-hydroxylamine (5.99 g, 42.5 mmol) was added. The result mixture was stirred overnight. The solvents were removed under vacuum, and the residue was purified with silica gel chromatography to give 5-bromo-N-methyl-N-(methyloxy)-3,4-dihydro-1H-isochromene-1-carboxamide. 1H-NMR (400 MHz, CDCl3) δ 7.40 (d, J=8.0 Hz, 1H), 6.99 (t, J=8.0 Hz, 1H), 6.93 (d, J=8.0 Hz, 1H), 5.63 (s, 1H), 4.23˜4.28 (m, 1H), 3.87˜3.92 (m, 1H), 3.71 (s, 3H), 3.19 (s, 3H), 2.71˜2.87 (m, 2H).

reactant | 5-bromo-3,4-dihydro-1H-isochromene-1-carboxylic acid | 35.4 mmol, 9.10 g | BrC1=C2CCOC(C2=CC=C1)C(=O)O | C10H9BrO3
reactant | CDI | 42.5 mmol, 4.14 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | O,N-dimethyl-hydroxylamine | 42.5 mmol, 5.99 g | CONC | C2H7NO
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-N-methyl-N-(methyloxy)-3,4-dihydro-1H-isochromene-1-carboxamide | BrC1=C2CCOC(C2=CC=C1)C(=O)N(OC)C | C12H14BrNO3
